US04855324
3-decenoyl chloride
The 3-decenoic acid was converted to its corresponding acyl chloride (3-decenoyl chloride) by reaction with thionyl chloride.

reactant | 3-decenoic acid | C(CC=CCCCCCC)(=O)O | C10H18O2
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
product | 3-decenoyl chloride | C(CC=CCCCCCC)(=O)Cl | C10H17ClO
